US05618821
A mixture of ethyl β-(3-quinolyl)acrylate (100 mg, 0.44 mmol) and 50 mg of 10% Pd/C in ethyl acetate/ethanol (3 ml/1 ml) was hydrogenated under hydrogen (55 psi) for 1 h. The mixture was filtered through celite, the residue was washed with methylene chloride, and the combined organic layer was concentrated in vacuo. Upon chromatographic purification on 20 cm silica column (ethyl acetate/hexane, 1/8-1/2), 49 mg (50%) of ethyl 3-(3-quinolyl)propionate (KUO-1953-136B) and 27 mg (26%) of ethyl 3-(1,2,3,4-tetrahydro-3-quinolyl)propionate was isolated.

reactant | ethyl β-(3-quinolyl)acrylate | 0.44 mmol, 100 mg | N1=CC(=CC2=CC=CC=C12)C=CC(=O)OCC | C14H13NO2
solvent | ethyl acetate ethanol | 3 ml | C(C)(=O)OCC.C(C)O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | ethyl 3-(1,2,3,4-tetrahydro-3-quinolyl)propionate | 27 mg, 26% | N1CC(CC2=CC=CC=C12)CCC(=O)OCC | C14H19NO2
